US07598423B2
Synthesis of 5-[4-(tert-butyl-dimethyl-silanyloxymethyl)-benzoyl]-nicotinonitrile
Add tetrakis(triphenylphosphine)palladium (284 mg, 0.246 mmol) to a solution of (5-bromo-pyridin-3-yl)-[4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-methanone (1.0 g, 2.46 mmol) and zinc cyanide (578 mg, 4.92 mmol) in dimethylformamide (25 mL) and stir. Purge solution with nitrogen and heat to 80° C. After 18 hours, add water (100 mL) and extract with ethyl acetate. Combine organic layers, dry over sodium sulfate, filter and concentrate under reduced pressure to give a residue. Purify the residue with flash chromatography eluting with 12.5% ethyl acetate:hexanes to yield the title compound as a white solid (550 mg, 63%): 1H NMR (DMSO-d6) δ 0.11 (s, 6H), 0.93 (s, 9H), 4.84 (bs, 2H), 7.53 (d, 2H), 7.83 (d, 2H), 8.61 (t, 1H), 9.09 (d, 1H), 9.26 (d, 1H).

reactant | (5-bromo-pyridin-3-yl)-[4-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-methanone | 2.46 mmol, 1.0 g | BrC=1C=C(C=NC1)C(=O)C1=CC=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C | C19H24BrNO2Si
reactant | water | 100 mL | O | H2O
reactant | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.246 mmol, 284 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 4.92 mmol, 578 mg | [C-]#N.[Zn+2].[C-]#N
product | 5-[4-(tert-butyl-dimethyl-silanyloxymethyl)-benzoyl]-nicotinonitrile | 550 mg, 63% | C(C)(C)(C)[SiH2]OC(C1=CC=C(C(=O)C=2C=NC=C(C#N)C2)C=C1)(C)C | C20H24N2O2Si
